US08466282B2
N-[(3S,5R)-5-(azetidin-1-ylcarbonyl)piperidin-3-yl]-5,6-difluoro-1-(4-methoxybutyl)-N-(2-methylpropyl)-1H-benzimidazole-2-carboxamide 1/2 fumarate
To tert-butyl (3R,5S)-3-(azetidin-1-ylcarbonyl)-5-[{[5,6-difluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate (270 mg) in 1,2-dichloroethane (3 ml) was added TFA (5 ml) and the mixture was stirred at room temperature for 1 hr. The solvent was evaporated under reduced pressure, and the residue was dissolved in ethyl acetate-water, and neutralized with saturated aqueous sodium hydrogen carbonate. The organic layer was dried over anhydrous sodium sulfate, fumaric acid (23 mg) was added, and the solvent was evaporated under reduced pressure to give the object product (210 mg).

reactant | tert-butyl (3R,5S)-3-(azetidin-1-ylcarbonyl)-5-[{[5,6-difluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate | 270 mg | N1(CCC1)C(=O)[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=C(C(=C2)F)F)C(=O)OC(C)(C)C | C31H45F2N5O5
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | 1,2-dichloroethane | 3 ml | ClCCCl | C2H4Cl2
product | N-[(3S,5R)-5-(azetidin-1-ylcarbonyl)piperidin-3-yl]-5,6-difluoro-1-(4-methoxybutyl)-N-(2-methylpropyl)-1H-benzimidazole-2-carboxamide | 210 mg | N1(CCC1)C(=O)[C@@H]1C[C@@H](CNC1)N(C(=O)C1=NC2=C(N1CCCCOC)C=C(C(=C2)F)F)CC(C)C | C26H37F2N5O3
